US03975445
2,4,4-trimethyl-cyclopent-2-en-1-one is reacted with nitromethane to give 2,4,4-trimethyl-3-nitromethyl-cyclopentanone which, after treatment with a base, is converted into 1-formyl-3-oxo-2,5,5-trimethyl-cyclopentane either with the aid of an oxidizing agent, such as potassium permanganate, ozone, or with a hydrohalic acid, a mineral acid or titanium trichloride.

reactant | 2,4,4-trimethyl-cyclopent-2-en-1-one | CC=1C(CC(C1)(C)C)=O | C8H12O
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 2,4,4-trimethyl-3-nitromethyl-cyclopentanone | CC1C(CC(C1C[N+](=O)[O-])(C)C)=O | C9H15NO3
